US06323174B1
Synthesis of 4-methyl-1,5-hexadien-1-yl pivalate
(Benzene)ruthenium dichloride dimer (14 mg, 0.056 mmol Ru), silver triflate (20 mg, 0.078 mmol) and 2,2-methylenebis(4-phenyl-2-oxazoline) (17.8 mg, 0.058 mmol) were dissolved in 2 ml of methanol. To the mixed solution were added isoprene (2 ml) and vinyl pivalate (1 ml) and the mixture was stirred under heat at 100° C. for 10 hours. The resulting product was poured into water and the separated organic layer was subjected to a GLC analysis. As a result, it was confirmed that a co-dimer was produced with the conversion rate being 72% and the ratio of an isomer being 4:1.

reactant | isoprene | 2 ml | C=CC(C)=C | C5H8
reactant | vinyl pivalate | 1 ml | C(C(C)(C)C)(=O)OC=C | C7H12O2
reactant | water | O | H2O
solvent | methanol | 2 ml | CO | CH4O
catalyst | silver triflate | 0.078 mmol, 20 mg | [O-]S(=O)(=O)C(F)(F)F.[Ag+]
product | 4-methyl-1,5-hexadien-1-yl pivalate | C(C(C)(C)C)(=O)OC=CCC(C=C)C | C12H20O2
